US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 3-amino-4-isopropylphenol and 2,4-dichloro-5-fluoropyrimidine were reacted to produce N2,N4-bis(5-hydroxy-2-isopropylphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.93 (d, 1H, J=3.5 Hz), 7.79 (br s, 1H), 7.64 (br s, 1H), 7.13 (d, 1H, J=8.7 Hz), 7.06 (d, 1H, J=2.3 Hz), 7.05 (d, 1H, J=8.7 Hz), 6.89 (d, 1H, J=2.3 Hz), 6.66 (d, 1H, J=2.3 and 8.7 Hz), 6.57 (d, 1H, J=2.3 and 8.7 Hz), 2.96 (m, 2H), 1.25 (d, 6H, J=7.0 Hz), 1.13 (dd, 6H, J=7.0 Hz); LCMS: ret. time: 24.27 min.; purity: 97%; MS (m/e): 397 (MH+).

reactant | 3-amino-4-isopropylphenol | NC=1C=C(C=CC1C(C)C)O | C9H13NO
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | N2,N4-bis(5-hydroxy-2-isopropylphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=CC(=C(C1)NC1=NC=C(C(=N1)NC1=C(C=CC(=C1)O)C(C)C)F)C(C)C | C22H25FN4O2
